US09227923B2
The crude product of 4-(aminomethyl)-N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoro-propan-2-yl)-6-methylphenyl]benzamide (0.30 g) was dissolved in tetrahydrofuran (5 ml). To the solution, acetic anhydride (0.07 g) was added and the mixture was stirred at room temperature for 2 hours. The reaction solution was diluted with water and extracted twice with ethyl acetate. The organic phases were combined, washed with 2N hydrochloric acid and dried over magnesium sulfate. After filtering off the drying agent, the solvent was distilled off under reduced pressure to obtain a crude product. The crude product was separated and purified by column chromatography to obtain 4-(acetamidomethyl)-N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methyl-phenyl]benzamide (0.27 g, yield 77%).

reactant | 4-(aminomethyl)-N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoro-propan-2-yl)-6-methylphenyl]benzamide | 0.30 g | NCC1=CC=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)CC)C=C1 | C20H19F7N2O
reactant | acetic anhydride | 0.07 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-(acetamidomethyl)-N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methyl-phenyl]benzamide | 0.27 g, yield 77% | C(C)(=O)NCC1=CC=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)CC)C=C1 | C22H21F7N2O2
